US07470680B2
N-(thiophen-3-yl)pivalamide.
To an oven dried flask was charged with methyl 3-aminothiophene-2-carboxylate (30 g, 191 mmol) and pyridine (300 ml), followed by addition of pivaloyl chloride (25.3 g, 210 mmol) at room temperature. A mild exotherm occurred, and solid was formed. 10 min later, the reaction mixture was refluxed under N2 overnight (˜20 hr), and stirred at rt on weekend. Most of the solvent was removed on rotary vacuo. The brown residue was partitioned between 1N HCl and CH2Cl2(100 mL/150 mL). After seperation, the aqueous solution was extracted with CH2Cl2(100 mL), the combined organic layers were washed with brine (70 mL), dried on MgSO4, concentrated on rotary vacuo, the residue as a brown solid, was triturated with Et2O (30 mL), filtered and washed with Et2O (2×10 mL) to afford the expected product, N-(thiophen-3-yl)pivalamide (15.4 g, 50%) as an off white solid. 1H-NMR (400 MHz, CHLOROFORM-D) δ ppm 1.28 (s, 9 H) 6.98 (dd, J=5.16, 1.39 Hz, 1 H) 7.20 (dd, J=5.29, 3.27 Hz, 1 H) 7.57-7.66 (m, 2 H); Mass spec. C184.05 (MH+) calc. for C9H13NOS 183.07.

reactant | methyl 3-aminothiophene-2-carboxylate | 191 mmol, 30 g | NC1=C(SC=C1)C(=O)OC | C6H7NO2S
reactant | pivaloyl chloride | 210 mmol, 25.3 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | pyridine | 300 ml | N1=CC=CC=C1 | C5H5N
product | N-(thiophen-3-yl)pivalamide | 15.4 g, 50% | S1C=C(C=C1)NC(C(C)(C)C)=O | C9H13NOS
